*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/TB_strength_LVT_lpe.spi
#else
.include ../../../work/xsch/TB_strength_LVT.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-18 reltol=1e-5 abstol=1e-15 vabstol=1e-9

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VS  VS  0     dc 0
VD  VD  0     dc 0.1
VG  VG  0     dc 0

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save v(VG) v(VD)


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

save @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gm]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vth]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[id]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgs]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgg]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[csb]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cdb]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgd]
+ @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gds]

dc VG 0 0.6 0.0001

let id = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[id]
let gm = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gm]
let gds = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[gds]
let cgs = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgs]
let cgd = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cgd]
let csb = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[csb]
let cdb = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[cdb]
let vdsat = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vdsat]
let vth = @m.xdut.xm1.msky130_fd_pr__pfet_01v8[vth]

write
quit


.endc

.end
